US05756502
3-{3-[3-(3-Isopropoxy-phenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-ureido}-benzoic acid
To a solution of 3-{3-[3-(3-Isopropoxy-phenyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-ureido}-benzoic acid ethyl ester (200 mg, 0.41 mmol) in 1,4-dioxane (10 mL) was added 1N LiOH (3 mL) and stirred overnight. The reaction mixture was acidified with 1N HCl and concentrated. It was then diluted with ethyl acetate and washed with water. The organic layer was dried over MgSO4, concentrated and chromatographed using ethyl acetate:hexane (1:1 v/v) to isolate pure product as a white solid (150 mg, 80.2%), mp 158°-160° C. Analysis calculated for C25H22 N4O5 : C, 65.49; H, 4.84; N, 12.22. Found: C, 65.49; H, 4.84; N, 12.03.

reactant | 3-{3-[3-(3-Isopropoxy-phenyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-ureido}-benzoic acid ethyl ester | 0.41 mmol, 200 mg | C(C)OC(C1=CC(=CC=C1)NC(=O)NC1=NC2=CC=CC=C2C(N1C1=CC(=CC=C1)OC(C)C)=O)=O | C27H26N4O5
reactant | LiOH | 1N, 3 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-{3-[3-(3-Isopropoxy-phenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-ureido}-benzoic acid | 150 mg, 80.2% | C(C)(C)OC=1C=C(C=CC1)N1C(=NC2=CC=CC=C2C1=O)NC(NC=1C=C(C(=O)O)C=CC1)=O | C25H22N4O5
